US09062048B2
Step B: 8-(1-(allyloxy)allyl)-1,4-dioxaspiro[4.5]decane
A solution of 1-(1,4-dioxaspiro[4.5]decan-8-yl)prop-2-en-1-ol (414 mg, 2.09 mmol), prepared in the previous step, was added to a suspension of sodium hydride (104 mg, 4.12 mmol, 95%) dropwise at 0° C. under argon. After the complete addition, the reaction mixture was allowed to reach room temperature and stirred for 1 hour. Allyl bromide (0.35 mL, 4.05 mmol) was added dropwise and the mixture stirred overnight at room temperature. It was poured onto ice cooled saturated NaHCO3 solution. After extraction with ether, the organic layer was concentrated in vacuo and the residue purified by flash chromatography (silica gel, DCM) to afford the product.

reactant | 1-(1,4-dioxaspiro[4.5]decan-8-yl)prop-2-en-1-ol | 2.09 mmol, 414 mg | O1CCOC12CCC(CC2)C(C=C)O | C11H18O3
reactant | sodium hydride | 4.12 mmol, 104 mg | [H-].[Na+]
reactant | Allyl bromide | 4.05 mmol, 0.35 mL | C(C=C)Br | C3H5Br
product | 8-(1-(allyloxy)allyl)-1,4-dioxaspiro[4.5]decane | C(C=C)OC(C=C)C1CCC2(OCCO2)CC1 | C14H22O3
